US08937053B2
5,6,7,7a-Tetrahydro-4H-thieno[3,2-c]pyridin-2-one (2.0 g) was added to dichloromethane (10 mL) and stirred for 10 minutes to form a solution at 25° C. followed by dropwise addition of triethylamine (1.22 g) to the solution. After the reaction mixture was stirred for 15 minutes, a solution of tert-butyldimethylsilyl chloride (1.81 g) in dichloromethane was added to the reaction mixture at the same temperature. The reaction mixture was stirred at 25° C. until the reaction was completed which was monitored by Thin Layer Chromatography (TLC) (methanol/ethyl acetate=3/7). Triethylamine (2.12 g), sodium iodide (0.02 g) and 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone (2.96 g) were then added to the mixture stirred at 25° C. and the reaction was monitored by Thin Layer Chromatography (TLC) (methanol/ethyl acetate=3/7). After the reaction was completed, the organic phase was washed with phosphate buffer (pH 6-7) and concentrated under reduced pressure at 30° C. to obtain 2-(tert-butyldimethylsilyloxy)-5-(α-cyclopropylformyl-2-fluorobenzyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine as a crude product. The crude product (1 g) was dissolved in acetone/water (2:1 v/v, acetone volume=8 ml) and the mixture was kept at −5° C. for 3 hours for the crystallization method. The crystals were collected by filtration and dried in vacuum at 50° C. for 24 hours to obtain (tert-butyldimethylsilyloxy)-5-(α-cyclopropylformyl-2-fluorobenzyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine having the HPLC purity of 99%. The yield was 85%.

reactant | 5,6,7,7a-Tetrahydro-4H-thieno[3,2-c]pyridin-2-one | 2.0 g | S1C(C=C2CNCCC21)=O | C7H9NOS
reactant | tert-butyldimethylsilyl chloride | 1.81 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | sodium iodide | 0.02 g | [I-].[Na+]
reactant | 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone | 2.96 g | BrC(C(=O)C1CC1)C1=C(C=CC=C1)F | C11H10BrFO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | Triethylamine | 2.12 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.22 g | C(C)N(CC)CC | C6H15N
product | 2-(tert-butyldimethylsilyloxy)-5-(α-cyclopropylformyl-2-fluorobenzyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | [Si](C)(C)(C(C)(C)C)OC1=CC=2CN(CCC2S1)C(C1=C(C=CC=C1)F)C(=O)C1CC1 | C24H32FNO2SSi
